US06299868B1
Copoly(diallyldimethylammonium chloride/vinyl alcohol) (50:50)
A solution of diallyldimethylammonium chloride (32.6 g of a 65 percent solution in water), vinyl acetate (10.53 g), and 2,2′-azobis(2-amidinopropane)dihydrochloride (0.64 g) in 2-methyl-2-propanol (60 g) and deionized water (60 g) was heated to 60° C. for 21 hours under a nitrogen atmosphere. After cooling to room temperature, the reaction solution was poured into isopropanol (2 L) and stirred for at least 15 minutes. The solution was decanted from the precipitated polymer. The polymer was suspended in isopropanol (2 L), stirred for at least 15 minutes, and allowed to settle. After decanting, the polymer was suspended in isopropanol (2 L), stirred for at least 15 minutes, and allowed to settle. The washed polymer was dried in a forced-air oven at 70° C. to afford 11.5 g. To a solution of a portion of the washed polymer (5.5 g) in deionized water (100 mL) was added NaOH (0.15 g of a 50 percent aqueous solution). The solution was heated at 60° C. with stirring for 23.5 hours. The reaction solution was transferred to a Spectra/Por 1 dialysis membrane bag (molecular weight cutoff 6000 to 8000) and dialyzed against deionized water for at least 18 hours. The dialyzed polymer solution was dried in a forced-air oven at 70° C. to afford 4.5 g.

reactant | vinyl acetate | 10.53 g | C(C)(=O)OC=C | C4H6O2
reactant | 2,2′-azobis(2-amidinopropane)dihydrochloride | 0.64 g | Cl.Cl.N(=NC(C)(C)C(N)=N)C(C)(C)C(N)=N
reactant | isopropanol | 2 L | C(C)(C)O | C3H8O
reactant | NaOH | [OH-].[Na+]
reactant | 2-methyl-2-propanol | 60 g | CC(C)(C)O | C4H10O
catalyst | diallyldimethylammonium chloride | [Cl-].C(C=C)[N+](C)(C)CC=C
solvent | water | O | H2O
solvent | water | 100 mL | O | H2O
solvent | water | 60 g | O | H2O
product | diallyldimethylammonium chloride vinyl alcohol | [Cl-].C(C=C)[N+](C)(C)CC=C.C(=C)O | InChI=1S/C8H16N.C2H4O.ClH/c1-5-7-9(3,4)8-6-2;1-2-3;/h5-6H,1-2,7-8H2,3-4H3;2-3H,1H2;1H/q+1;;/p-1
